US08455477B2
To a mixture of 3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (20 mg, 0.08 mmol), 4-iodo-5-methyl-1-(2-thienyl)-1H-pyrazole (23 mg, 0.08 mmol), copper (I) iodide (4.5 mg, 0.024 mmol), and tetrakis(triphenylphosphine)palladium (0) (9.1 mg, 0.008 mmol) in N,N-dimethylformamide (2 ml), was added triethylamine (0.022 ml, 0.16 mmol). The mixture was sparged with argon for 3 minutes and heated to 70° C. After 1 h, reaction mixture was purified directly by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA to give 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-3-{[5-methyl-1-(2-thienyl)-1H-pyrazol-4-yl]ethynyl}pyrazolo[1,5-a]pyridine.

reactant | 3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.08 mmol, 20 mg | C(#C)C=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C14H12N4O
reactant | 4-iodo-5-methyl-1-(2-thienyl)-1H-pyrazole | 0.08 mmol, 23 mg | IC=1C=NN(C1C)C=1SC=CC1 | C8H7IN2S
reactant | triethylamine | 0.16 mmol, 0.022 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 0.024 mmol, 4.5 mg | [Cu]I
catalyst | tris(dibenzylideneacetone)dipalladium | 0.008 mmol, 9.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-3-{[5-methyl-1-(2-thienyl)-1H-pyrazol-4-yl]ethynyl}pyrazolo[1,5-a]pyridine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC=2C=NN(C2C)C=2SC=CC2 | C22H18N6OS
